US08461209B2
(1) diethyl 4-chlorobenzylmalonate
In the same manner as in Example 6 (1), a crude product was obtained using diethyl malonate (13.6 g) and 4-chlorobenzyl bromide (17.5 g). This was purified by silica gel column chromatography to give the title compound (10.1 g) as an oil.

reactant | diethyl malonate | 13.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-chlorobenzyl bromide | 17.5 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | diethyl 4-chlorobenzylmalonate | 10.1 g | ClC1=CC=C(CC(C(=O)OCC)C(=O)OCC)C=C1 | C14H17ClO4
